US09403807B2
Step A: methyl 2-(4-amino-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate
A mixture of methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate (3.0 g, 6.8 mmol), as described in Example 18 Step D, in 4 N HCl/MeOH (20 mL) was stirred at room temperature for 2 h. After removing the solvent, the residue was dissolved in ethyl acetate (80 mL), pH value adjusted to 9-10 with saturated sodium bicarbonate solution, dried over sodium sulfate, then filtered. After removing the organic solvent, the residue was used for the next step without purification. LC/MS m/z=344.1 [M+H]+.

reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate | 6.8 mmol, 3.0 g | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C23H26ClN3O4
solvent | HCl MeOH | 4 N, 20 mL | Cl.CO
product | methyl 2-(4-amino-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate | NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C18H18ClN3O2
